US04423064
A 1 liter flask was equipped with a mechanical stirrer, addition funnel, reflux condenser and nitrogen inlet. The flask was dried with external heat and then charged with 12.00 grams (0.25 mol) of 50% sodium hydride dispersed in mineral oil. The mineral oil was removed by two 50 milliliter washings with toluene and then 200 milliliters of toluene was added to the flask. 43.06 grams (0.25 mol) of ethyl 2-isopropylacetoacetate was added dropwise to the flask along with three drops of dry ethanol. Hydrogen was virorously evolved and the reaction temperature rose to 65° C. When all the ethyl 2-isopropylacetoacetate had been added, the reaction mixture was heated to 75° C. for one hour and then cooled to 10° C. with an ice bath. The reaction mixture at this point was thick and light green in color. 37.18 grams (0.25 mol) of propargyl bromide was then added dropwise and the reaction mixture was allowed to stir overnight at room temperature. After one hour of stirring, the reaction mixture had thinned and turned a rust color. Following the overnight stirring period, the reaction mixture was heated to 85° C. for two hours and then cooled to room temperature. The reaction mixture was cautiously quenched with 10 milliliters of ice water followed by the addition of 250 milliliters of ice water and the resulting layers were separated. The toluene was washed three times with water, dried (MgSO4) and removed under vacuum to leave a red oil. The red oil was vacuum distilled through a vigreux still to give 33.5 grams (0.16 mol) of ethyl 2-propargyl-2-isopropylacetoacetate having a boiling point of 61°-68° C. at 0.20 millimeters pressure.

reactant | sodium hydride | 0.25 mol, 12.00 grams | [H-].[Na+]
reactant | ethyl 2-isopropylacetoacetate | 0.25 mol, 43.06 grams | C(C)(C)C(C(=O)OCC)C(=O)C | C9H16O3
reactant | Hydrogen | [H][H] | H2
reactant | propargyl bromide | 0.25 mol, 37.18 grams | C(C#C)Br | C3H3Br
catalyst | ethanol | three drops | C(C)O | C2H6O
product | ethyl 2-propargyl-2-isopropylacetoacetate | 0.16 mol, 33.5 grams | C(C#C)C(C(=O)OCC)(C(=O)C)C(C)C | C12H18O3
